US04492698
To a solution of 21.2 g (0.12 mole) of 1-benzylpiperazine in 100 ml of CHCl3 was added dropwise over a period of 30 minutes a solution of 15.0 g (0.10 mole) of cyclohexanecarbonyl chloride in 50 ml of CHCl3. The mixture was allowed to stand at room temperature during 45 minutes and was made basic with 5 g of sodium hydroxide in 50 ml of water. The nonaqueous layer was separated, dried over sodium sulphate and concentrated. The residue was distilled b.p. 150°-56° C. at 0.1-0.2 mmHg to give 21.2 g of 1-cyclohexanecarbonyl-4-benzylpiperazine.

reactant | 1-benzylpiperazine | 0.12 mole, 21.2 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | cyclohexanecarbonyl chloride | 0.10 mole, 15.0 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium hydroxide | 5 g | [OH-].[Na+]
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 1-cyclohexanecarbonyl-4-benzylpiperazine | 21.2 g | C1(CCCCC1)C(=O)N1CCN(CC1)CC1=CC=CC=C1 | C18H26N2O
